US07550505B2
2′-(2,4,6-trimethoxybenzylthio)biphenyl-3-ol
To a mixture of 1.05 g 2-(2,4,6-trimethoxybenzylthio)phenylboronic acid (3.14 mmol), 1.07 g 3-iodophenol (4.9 mmol) and 0.195 g Pd catalyst was added 40 ml toluene followed by 15 ml 2M Na2CO3. The mixture was refluxed under nitrogen overnight. The mixture was extracted with ethyl acetate. The organic was washed with water, brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica flash chromatography (hexane:ethyl acetate 80:20) to afford 0.948 g product (2.48 mmol, 79% yield).

reactant | 2-(2,4,6-trimethoxybenzylthio)phenylboronic acid | 3.14 mmol, 1.05 g | COC1=C(CSC2=C(C=CC=C2)B(O)O)C(=CC(=C1)OC)OC | C16H19BO5S
reactant | 3-iodophenol | 4.9 mmol, 1.07 g | IC=1C=C(C=CC1)O | C6H5IO
reactant | Na2CO3 | 2M, 15 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd | 0.195 g | [Pd] | Pd
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2′-(2,4,6-trimethoxybenzylthio)biphenyl-3-ol | 2.48 mmol, 0.948 g, 79% yield | COC1=C(CSC2=C(C=CC=C2)C2=CC(=CC=C2)O)C(=CC(=C1)OC)OC | C22H22O4S
